US04785090
1-(2-Fluoroethyl)-4-pyridone
500 mg (5.2 mmol) of 4H-pyran-4-on was dissolved in 5 ml of pyridine, 1.54 g (15.5 mmol) of 2-fluoroethylamine hydrochloride was added, and reacted at 70° C. for 4 hours. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel chromatography (chlroform-methanol (10:1)) to obtain 650 mg of the title compound.

reactant | 4H-pyran-4-on | 5.2 mmol, 500 mg | O1C=CC(C=C1)=O | C5H4O2
reactant | 2-fluoroethylamine hydrochloride | 15.5 mmol, 1.54 g | Cl.FCCN
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1-(2-Fluoroethyl)-4-pyridone | 650 mg | FCCN1C=CC(C=C1)=O | C7H8FNO
